US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-cyano-N4-(methoxycarbonylbenzyl)-4-pyrimidineamine and 3-hydroxyaniline were reacted to yield 5-cyano-N2-(3-hydroxyphenyl)-N4-(methoxycarbonylbenzyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.27 (s, 1H), 7.38–7.28 (m, 5H), 7.19–7.07 (m, 2H), 6.98–6.91 (m, 2H), 6.64 (d, 1H, J=6.6 Hz), 3.55 (s, 3H); LCMS: ret. time: 24.18 min.; purity: 98%; MS (m/e): 376 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-cyano-N4-(methoxycarbonylbenzyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC(C1=CC=CC=C1)C(=O)OC)C#N | C14H11ClN4O2
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | 5-cyano-N2-(3-hydroxyphenyl)-N4-(methoxycarbonylbenzyl)-2,4-pyrimidinediamine | C(#N)C=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NC(C1=CC=CC=C1)C(=O)OC | C20H17N5O3
